US04022786
6.1 g. of 4,4 -diphenylpiperidine are heated to boiling with 6.2 g. of 3-(p-fluorobenzoyl)propyl iodide and 5.3 g of anhydrous sodium carbonate in 30 cc. of methyl ethyl ketone for 8 hours while stirring. After cooling, the precipitated salt is filtered off and the filtrate is evaporated to dryness. The residue is dissolved in water and the aqueous solution is rendered alkaline by the addition of sodium hydroxide solution. The resulting base is recovered by repeated extraction with ether. The combined ether extracts are dried over potassium carbonate, the ether is distilled off, and the residue is recrystallized from ethanol with the addition of activated charcoal. Thereby, 9 g. of 1-[3-(p-fluorobenzoyl)-propyl]-4,4-diphenylpiperidine of the melting point 107° to 108° C. are obtained. On adding fumaric acid to its solution in ether, the fumarate of the melting point 195° to 197° C. is obtained.

reactant | 4,4 -diphenylpiperidine | C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1 | C17H19N
reactant | 3-(p-fluorobenzoyl)propyl iodide | FC1=CC=C(C(=O)CCCI)C=C1 | C10H10FIO
reactant | sodium carbonate | 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 1-[3-(p-fluorobenzoyl)-propyl]-4,4-diphenylpiperidine | FC1=CC=C(C(=O)CCCN2CCC(CC2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C27H28FNO
